US05506235
A. N-(4-Butylphenyl)-7-methoxy-2-methylquinolin-4-amine Hydrochloride
In a manner similar to that described in Example 35, Part A, 4-chloro-7-methoxy-2-methylquinoline and 4-butylaniline were transformed into the title compound: m.p. 245°-246° C.

reactant | 4-chloro-7-methoxy-2-methylquinoline | ClC1=CC(=NC2=CC(=CC=C12)OC)C | C11H10ClNO
reactant | 4-butylaniline | C(CCC)C1=CC=C(N)C=C1 | C10H15N
product | N-(4-Butylphenyl)-7-methoxy-2-methylquinolin-4-amine Hydrochloride | Cl.C(CCC)C1=CC=C(C=C1)NC1=CC(=NC2=CC(=CC=C12)OC)C | InChI=1S/C21H24N2O.ClH/c1-4-5-6-16-7-9-17(10-8-16)23-20-13-15(2)22-21-14-18(24-3)11-12-19(20)21;/h7-14H,4-6H2,1-3H3,(H,22,23);1H
